US08912188B2
To a solution of methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (200 mg, 0.63 mmol) in DMSO (4 mL) was added benzyl(methyl)amine (92 mg, 0.76 mmol), and DIEA (163 mg, 1.26 mmol). The resulting solution was stirred for 2 hours at 85° C. Then the mixture was quenched of water (100 mL) and extracted with dichloromethane (3×50 mL) The organic layers were combined and concentrated in vacuo to give a residue, which was purified via silica gel column chromatography (2% ethyl acetate in petroleum ether) to afford methyl 3-[benzyl(methyl)amino]-2-(4-fluorophenyl)quinoxaline-6-carboxylate as yellow oil (100 mg, 39%).

reactant | methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.63 mmol, 200 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | benzyl(methyl)amine | 0.76 mmol, 92 mg | C(C1=CC=CC=C1)NC | C8H11N
reactant | DIEA | 1.26 mmol, 163 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | methyl 3-[benzyl(methyl)amino]-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 100 mg, 39% | C(C1=CC=CC=C1)N(C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F)C | C24H20FN3O2
